* Subcircuit 74HC86_subcircuit
.subckt 74HC86_subcircuit net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ 
* c:\fossee\esim\library\subcircuitlibrary\74hc86_subcircuit\74hc86_subcircuit.cir
* u2  net-_u1-pad1_ net-_u1-pad3_ net-_u1-pad5_ d_xor
* u3  net-_u1-pad2_ net-_u1-pad4_ net-_u1-pad6_ d_xor
* u4  net-_u1-pad9_ net-_u1-pad12_ net-_u1-pad7_ d_xor
* u5  net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad8_ d_xor
a1 [net-_u1-pad1_ net-_u1-pad3_ ] net-_u1-pad5_ u2
a2 [net-_u1-pad2_ net-_u1-pad4_ ] net-_u1-pad6_ u3
a3 [net-_u1-pad9_ net-_u1-pad12_ ] net-_u1-pad7_ u4
a4 [net-_u1-pad10_ net-_u1-pad11_ ] net-_u1-pad8_ u5
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u2 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u3 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u4 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u5 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74HC86_subcircuit